US07582767B2
7-iodo-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide is produced starting from 2,3-dihydrobensofuran. Treatment with chlorosulfonic acid gives the corresponding sulfonyl chloride, which is iodinated using iodine monochloride. Aromatization is done using NBS, resulting in 7-iodo-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide after treatment with cresidine.

reactant | iodine monochloride | ICl | ClI
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 7-iodo-N-(2-methoxy-5-methylphenyl)-1-benzofuran-5-sulfonamide | IC1=CC(=CC=2C=COC21)S(=O)(=O)NC2=C(C=CC(=C2)C)OC | C16H14INO4S
product | cresidine | CC1=CC(=C(C=C1)OC)N | C8H11NO
